US06846492B2
a) 1,2-Dihexyloxybenzene
Pyrocatechol (55.1 g; 0.5 mol) is dissolved in DMF (400 ml), and K2CO3 (207.3 g) is added. The mixture is heated to 70° C. 1-Bromohexane (198 g; 1.2 mol) is then added dropwise, and heating is carried out for 15 hours at 80° C. Further DMF (400 ml) and water (1 liter) are subsequently added. Extraction is then carried out with tert-butyl methyl ether (2×500 ml), and the organic phase is washed with water (3×100 ml) and dried over Na2SO4. After filtration, concentration to dryness by evaporation is carried out.

reactant | Pyrocatechol | 0.5 mol, 55.1 g | C=1(O)C(O)=CC=CC1 | C6H6O2
reactant | K2CO3 | 207.3 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-Bromohexane | 1.2 mol, 198 g | BrCCCCCC | C6H13Br
reactant | water | 1 liter | O | H2O
solvent | DMF | 400 ml | CN(C)C=O | C3H7NO
solvent | DMF | 400 ml | CN(C)C=O | C3H7NO
product | 1,2-Dihexyloxybenzene | C(CCCCC)OC1=C(C=CC=C1)OCCCCCC | C18H30O2
